data/oMe_Silver.jsonl
{"reaction_id": "NR-328_1-c1ccc(OC)cc1_2-c1ccc(C#N)cc1","level": "medium","name": "Zincke Reaction","reactants_smiles": ["c1cccc[n+]1(c1cc(cc(c1)[N+]([O-])=O)[N+]([O-])=O)","N(c1ccc(OC)cc1)c1ccc(C#N)cc1"],"products_smiles": ["N(c1ccc(OC)cc1)(c1ccc(C#N)cc1)C=CC=CC=O"],"conditions": "Polar solvent (e.g., water, ethanol)","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccc(OC)cc1N(c1ccc(C#N)cc1)C1C=CC=CN1(c1cc(cc(c1)[N+]([O-])=O)[N+]([O-])=O)","step_weight": 0,"rationale": "The amine nucleophile attacks the electron-deficient pyridinium ring, activated by nitro groups, enabling ring opening due to resonance-stabilized cationic intermediates in polar solvent."},{"step": 2,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "c1ccc(OC)cc1N(c1ccc(C#N)cc1)C=CC=CC=N(c1cc(cc(c1)[N+]([O-])=O)[N+]([O-])=O)","step_weight": 0,"rationale": "The opened chain undergoes electrocyclization driven by conjugation and relief of charge separation, forming a more stable extended π-system."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c1ccc(OC)cc1N(c1ccc(C#N)cc1)C=CC=CC=O","step_weight": 0,"rationale": "Nucleophilic substitution occurs as the leaving group departs, favored by the stability of the conjugated enaminone product and good leaving ability of the nitro-activated fragment."}],"description": "In the Zincke reaction, a nucleophilic amine opens an activated pyridinium ring substituted with strong electron-withdrawing nitro groups. The ring undergoes electrocyclic rearrangement, followed by substitution to yield a conjugated enaminone. Polar solvents stabilize charged intermediates, facilitating the transformation."}
{"reaction_id": "NR-210_1-C2CCCCC2_2-C2CCCCC2_3-c2ccc(F)cc2","level": "medium","name": "Parikh-Doering Oxidation","reactants_smiles": ["O=S(C)(C2CCCCC2)","O(C(C2CCCCC2)(c2ccc(F)cc2))"],"products_smiles": ["O=C(C2CCCCC2)c2ccc(F)cc2"],"conditions": "Et3N,SO3,Py","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1=CC=[N+](C=C1)[S](=O)(=O)[O-]","step_weight": 0,"rationale": "SO3 coordinates to pyridine due to pyridine’s nucleophilicity and the strong electrophilicity of sulfur, forming a reactive sulfonyl–pyridinium complex."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C[S+](C2CCCCC2)O[S](=O)(=O)[O-]","step_weight": 0,"rationale": "The alcohol oxygen attacks the activated sulfur center, as sulfur is highly electrophilic and pyridine is a good leaving group under these conditions."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([S](C2CCCCC2)(O([S](=O)(=O)[O-]))O(C(C2CCCCC2)(c2ccc(F)cc2)))","step_weight": 0,"rationale": "The alkoxide generated from the alcohol displaces a leaving group on sulfur, forming an alkoxysulfonium species stabilized by the electron-withdrawing sulfonyl group."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[S](C2CCCCC2)(=C)O(C(C2CCCCC2)(c2ccc(F)cc2))","step_weight": 0,"rationale": "Base-induced elimination occurs because the α-proton is acidic due to adjacent positively charged sulfur, generating a sulfur ylide intermediate."},{"step": 5,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "O=C(C2CCCCC2)c2ccc(F)cc2","step_weight": 0,"rationale": "The sulfur ylide undergoes a [2,3]-sigmatropic rearrangement, driven by formation of a stable carbonyl and relief of charge separation."}],"description": "In the Parikh–Doering oxidation, the alcohol is oxidized to a carbonyl compound under mild, non-aqueous conditions using SO3–pyridine and triethylamine. The sequence involves activation of the oxidant, formation of an alkoxysulfonium intermediate, elimination to a sulfur ylide, and rearrangement to the carbonyl product."}
